US08193228B2
Methylmagnesium bromide (3 M in diethyl ether) (28 μL, 0.09 mmol) was added to a 0° C. solution of 4-(2,2-dimethylbutyl)-2-[1-hydroxy-2-oxo-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide (20 mg, 0.04 mmol) in tetrahydrofuran (2 mL). After stirring at 0° C. until no further reaction (LCMS), the reaction mixture was quenched with saturated aqueous ammonium chloride and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane afforded 2-[1,2-dihydroxy-2-(4-pyridin-2-ylphenyl)propyl]-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | Methylmagnesium bromide | 0.09 mmol, 3 M, 28 μL | C[Mg]Br
reactant | 4-(2,2-dimethylbutyl)-2-[1-hydroxy-2-oxo-2-(4-pyridin-2-ylphenyl)ethyl]-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.04 mmol, 20 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C(C1=CC=C(C=C1)C1=NC=CC=C1)=O)O)(CC)C | C24H30N4O4S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[1,2-dihydroxy-2-(4-pyridin-2-ylphenyl)propyl]-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | OC(C(C)(C1=CC=C(C=C1)C1=NC=CC=C1)O)C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C | C25H34N4O4S
